US06689806B1
A mixture of 6-pyridin-3-yl-1,3-dihydroindol-2-one (100 mg, 0.48 mmol), 4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrole-2-carboxaldehyde (100 mg, 0.48 mmol), and piperidine (1 drop) in ethanol (2 mL) was stirred at reflux overnight. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 3-[4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-6-pyridin-3-yl-1,3-dihydroindol-2-one.

reactant | 6-pyridin-3-yl-1,3-dihydroindol-2-one | 0.48 mmol, 100 mg | N1=CC(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C13H10N2O
reactant | 4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrole-2-carboxaldehyde | 0.48 mmol, 100 mg | CN(CCCC=1C(=C(NC1C)C=O)C)C | C12H20N2O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[4-(3-dimethylaminopropyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-6-pyridin-3-yl-1,3-dihydroindol-2-one | CN(CCCC=1C(=C(NC1C)C=C1C(NC2=CC(=CC=C12)C=1C=NC=CC1)=O)C)C | C25H28N4O
